US06506901B2
Step F: t-Butyl{2-fluoro-4-[(2S)oxiranylmethoxy]phenoxy}diphenylsilane
4-{[t-Butyl(diphenyl)silyl]oxy}-3-fluorophenol (4.5 g, 12.28 mmol) was dissolved in anhydrous tetrahydrofuran (50 mL). R-(+)-glycidol (1.0 g, 13.5 mmol) and triphenylphosphine (3.86 g, 14.76 mmol) were added. Diethylazodicarboxylate (2.32 g, 14.76 mmol) was added drop-wise. The solution was stirred overnight at ambient temperature. The solvent was removed in vacuo and the solid passed through a silica gel pad (eluant: 2:1 hexane-diethyl ether) to yield the title compound (2.64 g, 6.25 mmol).

reactant | 4-{[t-Butyl(diphenyl)silyl]oxy}-3-fluorophenol | 12.28 mmol, 4.5 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C(C=C(C=C1)O)F | C22H23FO2Si
reactant | triphenylphosphine | 14.76 mmol, 3.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 14.76 mmol, 2.32 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | t-Butyl{2-fluoro-4-[(2S)oxiranylmethoxy]phenoxy}diphenylsilane | 6.25 mmol, 2.64 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@H]1OC1)F | C25H27FO3Si
